US03933797
2-Methylguanidino Acetic Acid
N,N-dimethylisothiourea hydroiodide (9.5 g., 0.041 mole) was added portionwise to a stirred solution of glycine (4.45 g., 0.0595 mole) in concentrated ammonium hydroxide (40 ml.) at room temperature. The reaction was stirred overnight and the product recovered by filtration as white crystals: 3.0 g., m.p. 230° C. (dec.).

reactant | N,N-dimethylisothiourea hydroiodide | 0.041 mole, 9.5 g | I.CN(C(S)=N)C
reactant | glycine | 0.0595 mole, 4.45 g | NCC(=O)O | C2H5NO2
solvent | ammonium hydroxide | 40 ml | [OH-].[NH4+]
product | 2-Methylguanidino Acetic Acid | CN=C(NCC(=O)O)N | C4H9N3O2
